US07384963B2
2′-Methyl-N-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(3-methylphenyl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and N-methyl-N-(3-methylphenyl)amine using method M. NMR; δH [2H6]—DMSO 7.85,(1H, dd), 7.64,(1H, d), 7.49,(1H, d), 7.34,(2H, d), 7.25,(2H, d), 7.15,(1H, t), 7.04,(1H, s), 7.00-6.94,(2H, m), 3.38,(3H, s), 2.55,(3H, s), 2.20,(3H, s), 2.19,(3H, s). LCMS; retention time 3.50 min, MH+ 398.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | N-methyl-N-(3-methylphenyl)amine | CNC1=CC(=CC=C1)C | C8H11N
product | 2′-Methyl-N-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(3-methylphenyl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)N(C1=CC(=CC=C1)C)C | C25H23N3O2
